US07273867B2
35 μl (0.322 mmol) of 4-methylmorpholine are added to a solution of 100 mg (0.322 mmol) of [3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxyl]-2-phenylacetic acid, 61.3 mg (0.322 mmol) of 1-(4-aminophenyl)piperidin-2-one (prepared from 1-(4-nitrophenyl)piperidin-2-one by hydrogenation using Raney nickel as catalyst), 61.7 mg (0.322 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (DAPECI) and 49.3 mg (0.322 mmol) of hydroxybenzotriazole hydrate (HOBt) in 3 ml of DMF, and the mixture is stirred at room temperature for 48 hours. The reaction mixture is introduced into aqueous sodium carbonate solution, and the precipitate is filtered off, giving 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-N-[4-(2-oxopiperidin-1-yl)phenyl]-2-phenylacetamide as a colourless solid; ESI 483.

reactant | 4-methylmorpholine | 0.322 mmol, 35 μl | CN1CCOCC1 | C5H11NO
reactant | [3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxyl]-2-phenylacetic acid | 0.322 mmol, 100 mg | CC1=NC(=NO1)C=1C=C(OC(C(=O)O)C2=CC=CC=C2)C=CC1 | C17H14N2O4
reactant | 1-(4-aminophenyl)piperidin-2-one | 0.322 mmol, 61.3 mg | NC1=CC=C(C=C1)N1C(CCCC1)=O | C11H14N2O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.322 mmol, 61.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole hydrate | 0.322 mmol, 49.3 mg | O.OC1=CC=CC=2NN=NC21
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenoxy]-N-[4-(2-oxopiperidin-1-yl)phenyl]-2-phenylacetamide | CC1=NC(=NO1)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)N2C(CCCC2)=O)C2=CC=CC=C2)C=CC1 | C28H26N4O4
